Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Animal dander (cats)
 
Attending: ___.
 
Chief Complaint:
Lightheadedness, dyspnea
 
Major Surgical or Invasive Procedure:
DC Cardioversion (___)

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of atrial
fibrillation and atrial flutter s/p ablation ___ presenting 
with
palpitations. 

The patient has had difficult to manage atrial
fibrillation/flutter. He failed trials of metoprolol, 
flecainide,
and dronedarone as well as multiple cardioversions. He underwent
his first atrial flutter ablation in ___. However, he began
to develop persistent palpitations in ___ (some episodes
documented as atrial flutter, other as atrial fibrillation) and
underwent catheter ablation for typical atrial flutter on
___. After that procedure, he had 4 episodes of atrial
fibrillation associated with exercise. He was continued on
pradaxa for one month post procedure.
 
In the past, the patient's arrhythmia has been triggered by
alcohol and exercise. His symptoms include palpitations and
dyspnea on exertion. 

Of note, he has had a UTI in the past post foley placement. 

The patient flew to ___ on ___ to visit his brother. 

His brother has been having family issues so the visit was very
stressful and he was sleep derived.  On ___, he began to 
have
intermittent lung irritation that felt like something was stuck
in his lungs but he denies cough.  His temperature was 99, but 
he
felt feverish.  He believes that his lung irritation was due to
allergies so he took his albuterol inhaler and Flovent with
minimal effect.  He had gone for hikes/walks with his brother 
and
developed dyspnea on exertion as well as dehydration.  He also
developed stomach upset, but no nausea, vomiting, or diarrhea. 
He states that his urine was darker than normal but he denies
dysuria, urgency, or frequency.  He tried drinking more water to
help him feel better.  The patient had been taking up to 500 mg
of aspirin in order to help his dyspnea on exertion (with little
improvement) as well as his bilateral chronic knee pain with
improvement. On ___, he started to feel his
arrhythmia.  He states that his heart rates intermittently were
irregular and went up to 160.

On ___, the patient got on a 6 hour flight from ___ 
to
___.  At around 5:15 ___, he started to develop shortness of
breath and palpitations. This felt identical to his previous
episodes of atrial fibrillation/flutter. While on the flight, he
was attended to by a bystander physician and nurse, who 
monitored
his vital signs and gave him supplemental oxygen. He was stable
and completed his flight to ___. Upon arrival to the
ED, he reported feeling short of breath with exertion, but 
denied
nausea, chest pain, lightheadedness, dizziness. He denied any
pain in his legs, history of PEs. 

In the ED, initial heart rates were in the 160s with SBP 200. He
received 20 mg IV diltiazem with improvement in rates to 150s.
Afterwards, he felt wiped out. 

In the ED...  
- Initial vitals:  
Prehospaial: ___ 16 95 
in ED 96.5 142 129/91 18 97% RA 

- EKG:  
afib with ventricular rates to 150s, STD in V4-V6, no STE or TWI

- Labs/studies notable for: 
Na 137, K 3.8, HCO3 20, BUN 19, Cr 0.9
WBC 16.7, hgb 15.3, plt 191 
troponin <0.01

UA with mod leuks, negative nitrite, 27 WBC, few bacteria

- Patient was given: 
IV Diltiazem 20 mg 
IVF  NS ( 1000 mL ordered) 
PO/NG Metoprolol Tartrate 12.5 mg 
PO Dabigatran Etexilate 150 mg 
 
- Vitals on transfer:  
99.9 118 104/57 16  95% RA 

On the floor, the patient is feeling tired and hungry.  
Shortness
of breath is mildly improved.  He denies any dysuria, urgency, 
or
frequency.  Denies any nausea, vomiting abdominal pain.  He 
still
feels his lung irritation but denies any cough or fevers.  He is
still feeling stressed from his visit with his brother.  He
denies any blood in his stool or dark stools. 

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema.  
 
All of the other review of systems were negative.
 
Past Medical History:
PAST MEDICAL HISTORY  
====================  
1. CARDIAC RISK FACTORS  
- Hypertension    
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY
-Seasonal allergies

HOME MEDICATIONS  
================  
The Preadmission Medication list is accurate and complete
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN shortness of 
breath 
3. Aspirin 325 mg PO DAILY 

ALLERGIES  
=========  
NKDA  

 
Social History:
___
Family History:
FAMILY HISTORY  
==============  
The patient's mother had a pacemaker, arrhythmia, and sleep
apnea.  Patient's father had coronary artery disease/CABG,
arrhythmia with a pacemaker and maze procedure, valvular 
disease.
 
Physical Exam:
ADMISSION EXAM
==============
VS: ___ 0051 Temp: 99.2 PO BP: 129/83 HR: 145 RR: 20 O2 
sat:
93% O2 delivery: Ra 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, JVD not appreciated due to habitus
CV: Irregular rhythm, tachycardic, S1/S2, no murmurs, gallops, 
or
rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema, symmetric lower
extremities
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE EXAM
==============
VS: 98.7 112 / 76, 60, 18, 95% 2L 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, JVD not appreciated due to habitus
CV: RRR, S1/S2, no murmurs, gallops, or
rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema, symmetric lower
extremities
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS
==============

___ 09:40PM BLOOD WBC-16.7* RBC-4.97 Hgb-15.3 Hct-43.6 
MCV-88 MCH-30.8 MCHC-35.1 RDW-12.1 RDWSD-38.5 Plt ___
___ 09:40PM BLOOD Neuts-79.3* Lymphs-12.1* Monos-7.5 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-13.26* AbsLymp-2.02 
AbsMono-1.25* AbsEos-0.06 AbsBaso-0.04
___ 09:40PM BLOOD Glucose-108* UreaN-19 Creat-0.9 Na-137 
K-3.8 Cl-98 HCO3-20* AnGap-19*
___ 09:40PM BLOOD cTropnT-<0.01
___ 09:40PM BLOOD Mg-2.1
___ 10:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:00PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-2* pH-5.5 Leuks-MOD*
___ 10:00PM URINE RBC-3* WBC-27* Bacteri-FEW* Yeast-NONE 
Epi-0
___ 10:00PM URINE Mucous-OCC*

DISCHARGE LABS
==============

___ 05:10AM BLOOD WBC-15.6* RBC-4.82 Hgb-14.8 Hct-42.1 
MCV-87 MCH-30.7 MCHC-35.2 RDW-11.9 RDWSD-38.3 Plt ___
___ 05:10AM BLOOD Glucose-109* UreaN-13 Creat-0.8 Na-140 
K-4.0 Cl-104 HCO3-20* AnGap-16

Urine culture (___) - pending
___ 05:10AM BLOOD ALT-17 AST-15 LD(LDH)-214 CK(CPK)-136 
AlkPhos-62 TotBili-0.8
___ 05:10AM BLOOD CK-MB-1 cTropnT-<0.01
___ 05:10AM BLOOD Calcium-8.4 Phos-3.7 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of atrial
fibrillation and atrial flutter s/p ablation ___ presenting 
with
palpitations and atrial fibrillation with RVR.

# Paroxysmal afib s/p aflutter ablation: The patient presented 
with palpitations and with symptomatic atrial fibrillation with 
RVR. He received 20 mg IV diltiazem and 12.5 mg PO metoprolol in 
the ED. His aspirin was decreased to 81 mg and he was started on 
pradaxa 150 mg BID. His troponins and CK-MB were negative. It is 
thought that his triggers for the current episode of atrial 
fibrillation were family stress and a urinary tract infection. 
His CXR was negative. He had a TEE which showed no thrombus in 
his left atrium or atrial appendage. He underwent DC 
cardioversion, which was unsuccessful. However, when back on the 
floor after the failed ___, he spontaneously converted to sinus 
rhythm, which was confirmed with EKG.

# UTI: Patient presented with leukocytosis, which is likely due 
to his UTI. He had no fevers. His CXR was negative. UA showed 
pyuria. He was placed on Bactrim.

CHRONIC ISSUES:
===============
# Asthma: We continued his albuterol inhaler.

TRANSITIONAL ISSUES:
====================
[ ]Please make sure patient is regularly taking his pradaxa and 
rate-controlling medications. 
[ ]Patient expressed concern that he would not be able to 
tolerate exercise with his rate-controlling medications. Please 
assess if on correct regimen for his lifestyle.
[ ]Patient expressed concern about his recent bloodwork that 
showed hypertriglyceridemia at ___. 

CORE MEASURES
=============
# CODE: Full (confirmed) 
# CONTACT: wife, ___- ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN shortness of  
breath 
3. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Dabigatran Etexilate 150 mg PO BID  
2.  Metoprolol Tartrate 50 mg PO Q6H  
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID  
4.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath  
5.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN shortness of 
 breath  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Atrial fibrillation with RVR

SECONDARY DIAGNOSIS
===================
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were brought to the hospital because you were having 
lightheadedness and dizziness on your flight from the ___ 
___.

WHAT WAS DONE WHILE I WAS HERE?
You got an echocardiogram, which is an ultrasound picture of 
your heart. You were also cardioverted because of your atrial 
fibrillation.

WHAT DO I NEED TO DO WHEN I LEAVE?
Please follow-up with Dr. ___ on ___ at 1 pm. Please 
follow-up with Dr. ___ on ___ at 1:20 pm. Dr. ___ 
___ will call you to schedule an appointment. If you don't 
hear from them in 2 business days, please call them. Please 
continue to take your medications.

Be well, 

Your ___ Care Team
 
Followup Instructions:
___